US05583178
Preparation of 3-[[4-(diethylamino)phenyl]imino]-2-phenyl-1-propene-1,1,3-tricarbonitrile
The above procedure was used for the preparation of 3-[[4-dibutylamino)phenyl]imino]-2-phenyl-1-propene-1,1,3-tricarbonitrile using N,N-dibutyl-4-nitrosoaniline in place of N,N-diethyl-4-nitrosoaniline.

reactant | 2-phenyl-1-propene-1,1,3-tricarbonitrile | C1(=CC=CC=C1)C(=C(C#N)C#N)CC#N | C12H7N3
reactant | N,N-dibutyl-4-nitrosoaniline | C(CCC)N(C1=CC=C(C=C1)N=O)CCCC | C14H22N2O
product | 3-[[4-(diethylamino)phenyl]imino]-2-phenyl-1-propene-1,1,3-tricarbonitrile | C(C)N(C1=CC=C(C=C1)N=C(C(=C(C#N)C#N)C1=CC=CC=C1)C#N)CC | C22H19N5
